US06204264B1
2-[(4-Methylpiperazinyl)carbonyl]-1-octadecyl-1H-benzimidazole monohydrochloride (Compound 31)
4N Hydrochloric acid/ethyl acetate solution (0.18 ml) was added to a solution containing 2-[(4-methylpiperazinyl)carbonyl]-1-octadecyl-1H-benzimidazole (0.348 g) in ethyl acetate (4 ml) and the mixture was stirred for 15 minutes at room temperature. The reaction mixture, with ethanol (1 ml) and ethyl acetate (4 ml) added thereto, was dissolved by heating, and then cooled with ice. The depositing crystals were collected by filtration, thereby yielding the entitled compound (0.318 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.18 ml | Cl.C(C)(=O)OCC
reactant | 2-[(4-methylpiperazinyl)carbonyl]-1-octadecyl-1H-benzimidazole | 0.348 g | CN1CCN(CC1)C(=O)C1=NC2=C(N1CCCCCCCCCCCCCCCCCC)C=CC=C2 | C31H52N4O
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(4-Methylpiperazinyl)carbonyl]-1-octadecyl-1H-benzimidazole monohydrochloride | 0.318 g | Cl.CN1CCN(CC1)C(=O)C1=NC2=C(N1CCCCCCCCCCCCCCCCCC)C=CC=C2 | InChI=1S/C31H52N4O.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-35-29-22-19-18-21-28(29)32-30(35)31(36)34-26-24-33(2)25-27-34;/h18-19,21-22H,3-17,20,23-27H2,1-2H3;1H
